US08034812B2
Production of N-[6-(5-amino-2-bromophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide
To a solution of N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide (2.2 g, 6.7 mmol) in N,N-dimethylformamide (60 mL) were added 5-amino-2-bromophenol (1.9 g, 10 mmol) and potassium carbonate (1.8 g, 13 mmol), and the mixture was stirred at 140° C. for 12 hr. After cooling the mixture to room temperature, the mixture was diluted with water, and extracted with ethyl acetate. The organic layer was washed with 5% aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous sodium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was purified by NH silica gel column chromatography (ethyl acetate/hexane=50/50→100/0). The solvent was evaporated under reduced pressure and the obtained solid was washed with diisopropyl ether to give the title compound (0.79 g, 31%) as a yellow powder.

reactant | N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide | 6.7 mmol, 2.2 g | IC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2 | C10H9IN4O
reactant | 5-amino-2-bromophenol | 10 mmol, 1.9 g | NC=1C=CC(=C(C1)O)Br | C6H6BrNO
reactant | potassium carbonate | 13 mmol, 1.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-[6-(5-amino-2-bromophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.79 g, 31% | NC=1C=CC(=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C1)Br | C16H14BrN5O2
